US07282512B2
A solution of 150.0 mL (150.0 mmol) of 1 M isopropylchloroformate in toluene was added dropwise to a solution of 20.9 mL (150.0 mmol) of triethylamine and 57.06 g (150.0 mmol) of (2S)-6-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]hexanoic acid in 500 mL of anhydrous tetrahydrofuran at 0° C. After 2 h, the resulting mixture was filtered to remove solids, rinsing with 100 mL of anhydrous tetrahydrofuran. The filtrate was then added dropwise to a stirred solution of 11.35 g (300.0 mmol) of sodium borohydride in 500 mL of 0° C. water. The cold bath was removed, and the resulting mixture was stirred for 18 h. It was then diluted with 800 mL of ethyl acetate and 300 mL of saturated aqueous sodium bicarbonate. The two layers were separated, the aqueous layer was extracted with two 250 mL aliquots of ethyl acetate, and the extracts were combined with the original ethyl acetate layer. The combined ethyl acetate phase was washed with three 100 ml portions of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated under vacuum. The yellow oil was further purified by column chromatography on silica gel, eluting with 4:1 ethyl acetate:hexane to afford 37.70 g (68%) of benzyl (5S)-5-{[t-butyloxycarbonyl]amino}-6-hydroxyhexylcarbamate. 1H NMR (300 MHz, DMSO-d6) δ 7.43-7.30 (m, 5H), 7.25 (t, J=5 Hz, 1H), 6.45 (d, J=8 Hz, 1H), 5.02 (s, 2H), 4.57 (br s, 1H), 3.35-3.29 (m overlapping water peak, 2H), 3.26-3.16 (m, 1H), 3.04-2.93 (m, 2H), 1.39 (s, 9H), 1.57-1.16 (m, 6H). ES-LCMS m/z 389 (M+Na).

reactant | isopropylchloroformate | 150.0 mmol, 1 M, 150.0 mL | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | TEA | 150.0 mmol, 20.9 mL | C(C)N(CC)CC | C6H15N
reactant | (2S)-6-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]hexanoic acid | 150.0 mmol, 57.06 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C19H28N2O6
reactant | sodium borohydride | 300.0 mmol, 11.35 g | [BH4-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzyl (5S)-5-{[t-butyloxycarbonyl]amino}-6-hydroxyhexylcarbamate | 37.70 g, 68% | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(OCC1=CC=CC=C1)=O)CO | C19H30N2O5
